US08541411B2
b) 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate (65 mg, 0.15 mmol) and LiOH (19 mg, 0.5 mmol) in THF (5 mL) and water (5 mL), was stirred overnight at rt. Then the pH of the reaction mixture was neutralized with 1N aq. HCl. Then the mixture was stirred at rt for 1 h, filtered to give the product (47 mg, 74%, with about 10% monochloride as the impurity) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.53 (s, 3H), 3.12 (t, 4H, J=4.5 Hz), 3.73 (t, 4H, J=4.5 Hz), 5.66 (s, 2H), 6.42 (d, 1H, J=7.8 Hz), 7.26 (t, 1H, J=7.8 Hz), 7.42 (s, 1H,), 7.48 (s, 1H), 7.62 (d, 1H, J=7.8 Hz); LC-MS: m/e=420 [M+1]+

reactant | methyl 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | 0.15 mmol, 65 mg | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C | C21H21Cl2N3O3
reactant | LiOH | 0.5 mmol, 19 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C | C20H19Cl2N3O3
